US08022062B2
(±)-1-Pyridazin-3-yl-ethanol:
To 1-pyridazin-3-yl-ethanone (1.4 g, 11.2 mmol) in methanol (112 mL) add sodium borohydride (0.85 g, 22.5 mmol) at 0° C. and stir for 1 h at ambient temperature. Evaporate the mixture and purify by chromatography on silica gel eluting with EtOAc:hexane (1:1 to 1:0) and methanol:EtOAc (0:1 to 1:9) to obtain the title compound (1.3 g, 93%).

reactant | 1-pyridazin-3-yl-ethanone | 11.2 mmol, 1.4 g | N1=NC(=CC=C1)C(C)=O | C6H6N2O
reactant | sodium borohydride | 22.5 mmol, 0.85 g | [BH4-].[Na+]
solvent | methanol | 112 mL | CO | CH4O
product | (±)-1-Pyridazin-3-yl-ethanol | 1.3 g, 93% | N1=NC(=CC=C1)C(C)O | C6H8N2O
